US06914160B1
2-Fluoro-5-formylbenzonitrile
Iso-propyl magnesium bromide (18 ml, 1M in tetrahydrofuran, 18 mmol) was added dropwise to an ice-cooled solution of 5-bromo-2-fluorobenzonitrile (3 g, 15.1 mmol) in tetrahydrofuran (25 ml), and once addition was complete, the mixture was allowed to warm to room temperature and stirred for a further 2 hours. N,N-Dimethylformamide (3.5 ml, 45.2 mmol) was added and the reaction stirred for 3 hours. Water was added and the mixture extracted with ethyl acetate (3×). The combined organic extracts were washed with 6% aqueous magnesium sulphate solution, and brine, then dried (Na2SO4) and concentrated under reduced pressure. The product was purified by column chromatography on silica gel using an elution gradient of ethyl acetate:hexane (10:90 to 20:80) to afford the title compound as a light yellow solid, 1.01 g.

reactant | Iso-propyl magnesium bromide | 18 mmol, 1M, 18 ml | C(C)(C)[Mg]Br
reactant | 5-bromo-2-fluorobenzonitrile | 15.1 mmol, 3 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | N,N-Dimethylformamide | 45.2 mmol, 3.5 ml | CN(C=O)C | C3H7NO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-Fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
